US08685975B2
To a stirred solution of methyl 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetate (0.204 g, 0.83 mmol) in dry MeOH (5 mL) under argon was added a solution of KOH in MeOH (1.6 mL of a 0.5 M solution, 8.3 mmol) and the reaction was heated to reflux for 5 hours. The reaction mixture was cooled to room temperature and the volatiles were removed under reduced pressure. The residue was diluted with saturated aqueous NH4Cl and extracted with EtOAc. Additional EtOAc was then used to extract the aqueous phase as the pH was adjusted from ˜8 to ˜2 using concentrated HCl. The combined organics were dried over Na2SO4, filtered, and the solvents removed under reduced pressure to yield 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetic acid (0.18 g, 95%) which was used without further purification.

reactant | methyl 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetate | 0.83 mmol, 0.204 g | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)OC | C13H14N2O3
reactant | KOH | [OH-].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(4-(1H-pyrazol-1-yl)phenyl)-2-methoxyacetic acid | 0.18 g, 95% | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)O)OC | C12H12N2O3
